US03992539
Preparation of 3-Propyl-7-bromo-s-triazolo-[3,4-a]-isoquinoline: ##SPC15##
A mixture of 5-bromo-1-hydrazinoisoquinoline (4.76 g., 0.02 mol.) and butyryl chloride (2.1 ml., 0.02 mol.) in dichloromethane (100 ml.) was allowed to reflux overnight. The solvent was removed in vacuo and the residue was heated at reflux for three hours in xylene (100 ml.) and triethylamine (2.8 ml., 0.02 mol.). The mixture was filtered and the xylene removed in vacuo to provide the crude product. Recrystallization from ethanol (≈100 ml.) gave the pure product, 4.4 g. (76%); m.p. 197°-199°C., m.p. (hydrochloride salt) 200°-201°C.

reactant | 5-bromo-1-hydrazinoisoquinoline | 0.02 mol, 4.76 g | BrC1=C2C=CN=C(C2=CC=C1)NN | C9H8BrN3
reactant | butyryl chloride | 0.02 mol, 2.1 ml | C(CCC)(=O)Cl | C4H7ClO
reactant | triethylamine | 0.02 mol, 2.8 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-Propyl-7-bromo-s-triazolo-[3,4-a]-isoquinoline | C(CC)C1=NN=C2N1C=CC1=C(C=CC=C21)Br | C13H12BrN3
